US04245099
4-tert-Butylanisole
To 15.0 g of 4-tert-butylphenol dissolved in 100 ml of acetone were added 37.5 ml of methyl iodide and 83.0 g of potassium carbonate and heated at reflux for 20 hours. The reaction mixture was filtered and the filtrate was concentrated at reduced pressure. Diethyl ether was added to the residue to remove the insoluble matters by the filtration and the filtrate was concentrated at reduced pressure. The residue was purified by vacuum distillation to give 15.5 g of the title compound having the following physical properties.

reactant | 4-tert-butylphenol | 15.0 g | C(C)(C)(C)C1=CC=C(C=C1)O | C10H14O
reactant | methyl iodide | 37.5 ml | CI | CH3I
reactant | potassium carbonate | 83.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-tert-Butylanisole | 15.5 g | C(C)(C)(C)C1=CC=C(C=C1)OC | C11H16O
